US06613804B2
N-(3,4-dimethyl-5-isoxazolyl)-2-(4-tolylacetyl)thiophene-3-sulfonamide was prepared, as described in Example 93B, by reacting N-(3,4-dimethyl-5-isoxazolyl)-2-[N-methoxy(methylaminocarbonyl)]thiophene-3-sulfonamide with 4-methylbenzylmagnesium chloride, resulting in a 65% yield, m.p. 95-100° C.

reactant | N-(3,4-dimethyl-5-isoxazolyl)-2-[N-methoxy(methylaminocarbonyl)]thiophene-3-sulfonamide | CC1=NOC(=C1C)NS(=O)(=O)C1=C(SC=C1)C(=O)N(OC)C | C12H15N3O5S2
reactant | 4-methylbenzylmagnesium chloride | CC1=CC=C(C[Mg]Cl)C=C1
product | N-(3,4-dimethyl-5-isoxazolyl)-2-(4-tolylacetyl)thiophene-3-sulfonamide | 65% yield | CC1=NOC(=C1C)NS(=O)(=O)C1=C(SC=C1)C(CC1=CC=C(C=C1)C)=O | C18H18N2O4S2
